US05273999
Preparation of (E)-3-[2-[[5-(Acetyloxy)pentyl]oxy]-6-(6-hydroxy-1-hexynyl)phenyl]-2-propenoic Acid Methyl Ester
Using the procedure of example 63, (E)-3-[2-hydroxy-6-(6-hydroxy-1-hexynyl)phenyl]-2-propenoic acid methyl ester from the preceding example was converted into the title compound by alkylation with 5-bromopentylacetate. The product was obtained as a colorless oil in 77% yield.

reactant | (E)-3-[2-hydroxy-6-(6-hydroxy-1-hexynyl)phenyl]-2-propenoic acid methyl ester | COC(\C=C\C1=C(C=CC=C1C#CCCCCO)O)=O | C16H18O4
reactant | 5-bromopentylacetate | BrCCCCCOC(C)=O | C7H13BrO2
product | (E)-3-[2-[[5-(Acetyloxy)pentyl]oxy]-6-(6-hydroxy-1-hexynyl)phenyl]-2-propenoic Acid Methyl Ester | 77% yield | COC(\C=C\C1=C(C=CC=C1C#CCCCCO)OCCCCCOC(C)=O)=O | C23H30O6
